US05175166
1-Methyl-5-methoxycarbonylpyrimidinium iodide
5-Methoxycarbonylpyrimidine (597 mg, 4.3 mmol) and methyliodide (1.6 ml, 26 mmol) were dissolved in acetonitrile (20 ml) in a stoppered flask and stirred at room temperature. After five days diethyl ether was added to precipitate red crystalline product 314 mg (26%), mp 167°-170° C. with effervescence. Calculated: C 30.02, H 3.24, N 10.00; found: C 29.88, H 3.30, N 10.07.

reactant | 5-Methoxycarbonylpyrimidine | 4.3 mmol, 597 mg | COC(=O)C=1C=NC=NC1 | C6H6N2O2
reactant | methyliodide | 26 mmol, 1.6 ml | CI | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Methyl-5-methoxycarbonylpyrimidinium iodide | [I-].C[N+]1=CN=CC(=C1)C(=O)OC | InChI=1S/C7H9N2O2.HI/c1-9-4-6(3-8-5-9)7(10)11-2;/h3-5H,1-2H3;1H/q+1;/p-1
